US07452892B2
D. Preparation of 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine
To a solution of (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol (14.5 g, 71 mmol) in 100 mL CH2Cl2 at room temperature under argon was added SOCl2 (16.8 g, 142 mmol), followed by about 1.5 mL DMF, which was added to re-dissolve the rapidly formed, precipitating hydrochloride salt of the starting material. The resulting reaction mixture was stirred for 16 h. HPLC/MS analysis indicated that the reaction was complete. Solvent was evaporated under vacuum. The resulting residue was dissolved in 200 mL Et2O, and the resulting solution was washed with 10% aqueous sodium carbonate solution (100 mL), then saturated aqueous NaCl (100 mL). The organic phase was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under vacuum to obtain 13.7 g of the title compound as a tan oil, which was greater than 98% pure. HPLC/MS: retention time=2.9 min, [M+H]30 =210.

reactant | (2-methyl-6-(trifluoromethyl)pyridin-3-yl)methanol | 71 mmol, 14.5 g | CC1=NC(=CC=C1CO)C(F)(F)F | C8H8F3NO
reactant | SOCl2 | 142 mmol, 16.8 g | O=S(Cl)Cl | Cl2OS
reactant | DMF | about 1.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 13.7 g | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
